US06025370
To 100 mg of 1-cyclopropyl-7-(isoindolin-5-yl)-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid were added 1 ml of formic acid and 65 mg of formalin, and the resulting mixture was heated under reflux for 1 hour, after which the solvent was distilled under reduced pressure to remove the solvent. To the resulting residue was added 5 ml of water, and the resulting mixture was adjusted to pH 7 with a saturated aqueous sodium hydrogencarbonate solution and extracted with five 5-ml portions of chloroform. The chloroform layer obtained was dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. To the resulting residue were added ethanol and diethyl ether, and the crystals were collected by filtration. To the crystals collected were added 1 ml of ethanol, 1 ml of a 1N aqueous sodium hydroxide solution and 1 ml of water to dissolve the crystals, after which carbon dioxide was bubbled into the resulting solution and the crystals were collected by filtration to obtain 76 mg of light-yellow 1-cyclopropyl-8-methoxy-7-(2-methylisoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid.

reactant | 1-cyclopropyl-7-(isoindolin-5-yl)-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 100 mg | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC)C=1C=C2CNCC2=CC1)=O)C(=O)O | C22H20N2O4
reactant | formalin | 65 mg | C=O | CH2O
solvent | formic acid | 1 ml | C(=O)O | CH2O2
product | 1-cyclopropyl-8-methoxy-7-(2-methylisoindolin-5-yl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 76 mg | C1(CC1)N1C=C(C(C2=CC=C(C(=C12)OC)C=1C=C2CN(CC2=CC1)C)=O)C(=O)O | C23H22N2O4
